US09034866B2
Into a 20-L 4-necked round-bottom flask was placed methanol (5 L), methyl 3-(4-bromophenyl)cyclobutane-1-carboxylate (2175 g, 8.08 mol, 1.00 equiv), followed by the addition of a solution of sodium hydroxide (1623 g, 40.58 mol, 5.02 equiv, 5 M) in water (5 L). The resulting solution was stirred at 80° C. for 3 h, cooled to 30° C. and concentrated under vacuum. The resulting solution was diluted with 10 L of H2O and 8 L of DCM, and then extracted with 2×2 L of dichloromethane. The pH value of the combined aqueous layers was adjusted to 5-6 with hydrogen chloride (6 mol/L). The resulting solution was extracted with 3×4 L of dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was triturated with 1.5 L of hexane and 300 mL of EA. The solids were collected by filtration. The filtrate was concentrated under vacuum and combined with the previous solids to afford 1312 g (crude) of 3-(4-bromophenyl)cyclobutane-1-carboxylic acid as a dark red solid.

reactant | methanol | 5 L | CO | CH4O
reactant | methyl 3-(4-bromophenyl)cyclobutane-1-carboxylate | 8.08 mol, 2175 g, 1.00 equiv | BrC1=CC=C(C=C1)C1CC(C1)C(=O)OC | C12H13BrO2
reactant | sodium hydroxide | 40.58 mol, 5 M, 1623 g, 5.02 equiv | [OH-].[Na+]
solvent | water | 5 L | O | H2O
product | 3-(4-bromophenyl)cyclobutane-1-carboxylic acid | 1312 g | BrC1=CC=C(C=C1)C1CC(C1)C(=O)O | C11H11BrO2
